US07238689B2
0.32 g of sodium hydrosulfide (purity: 70%, 4.00 mmoles) was added, at room temperature, to a solution of 0.35 g (2.00 mmoles) of 5,5-dimethyl-3-methylsulfonyl-2-isoxazoline dissolved in 10 ml of dimethylformamide. The mixture was stirred for 2 hours. To the reaction mixture were added 0.28 g (2.00 mmoles) of anhydrous potassium carbonate, 0.31 g (2.00 mmoles) of Rongalit and 0.45 g (2.00 mmoles) of 5-chloromethyl-4-methoxy-6-trifluoromethylpyrimidine. The resulting mixture was stirred at room temperature for 2 hours to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography to obtain 0.55 g (yield: 85.9%) of 5,5-dimethyl-[(4-methoxy-6-trifluoromethylpyrimidin-5-yl)-methylthio]-2-isoxazoline.

reactant | sodium hydrosulfide | 4.00 mmoles, 0.32 g | [SH-].[Na+]
reactant | 5,5-dimethyl-3-methylsulfonyl-2-isoxazoline | 2.00 mmoles, 0.35 g | CC1(CC(=NO1)S(=O)(=O)C)C | C6H11NO3S
reactant | potassium carbonate | 2.00 mmoles, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | Rongalit | 2.00 mmoles, 0.31 g | C(O)S(=O)[O-].[Na+]
reactant | 5-chloromethyl-4-methoxy-6-trifluoromethylpyrimidine | 2.00 mmoles, 0.45 g | ClCC=1C(=NC=NC1C(F)(F)F)OC | C7H6ClF3N2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5,5-dimethyl-[(4-methoxy-6-trifluoromethylpyrimidin-5-yl)-methylthio]-2-isoxazoline | 0.55 g, yield: 85.9% | CC1(CC(=NO1)SCC=1C(=NC=NC1C(F)(F)F)OC)C | C12H14F3N3O2S
